US07592477B2
Step c) Formation of ethyl[(4-aminobenzyl)(3,5-dichlorobenzyl)amino](oxo)acetate
A suspension of PtO2 (250 mg) in EtOAc (5 mL) was added to a solution of ethyl[(3,5-dichlorobenzyl) (4-nitrobenzyl)amino](oxo)acetate (2.00 g, 4.86 mmol) in EtOH/EtOAc (2/1, 90 mL) under H2 (1 atm). The reaction mixture was stirred vigorously at rt for 30 min. The reaction mixture was filtered over a pad of Celite and silica gel to remove the catalyst. The solvents were removed under reduced pressure. The residue was purified by flash chromatography over silica gel (c-Hex/EtOAc 2/1) to give the title compound as a pale yellow oil (1.21 g, 61%). 1H NMR (CDCl3, 300 MHz) δ 7.31-7.05 (m, 5H), 6.71 (m, 2H), 4.39 (m, 4H), 4.25 (br s, 2H), 1.36 (m, 3H). HPLC (Condition A), Rt: 3.4 min (HPLC purity: 94.1%).

reactant | ethyl[(3,5-dichlorobenzyl) (4-nitrobenzyl)amino](oxo)acetate | 4.86 mmol, 2.00 g | C(C)OC(C(=O)N(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC(=CC(=C1)Cl)Cl)=O | C18H16Cl2N2O5
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH EtOAc | 90 mL | CCO.CCOC(=O)C
catalyst | PtO2 | 250 mg | O=[Pt]=O
product | ethyl[(4-aminobenzyl)(3,5-dichlorobenzyl)amino](oxo)acetate | 1.21 g, 61% | C(C)OC(C(=O)N(CC1=CC(=CC(=C1)Cl)Cl)CC1=CC=C(C=C1)N)=O | C18H18Cl2N2O3
